US06376523B1
N-chlorosuccinimide (0.266 g, 2 mmol) was added, in one lot, to a stirred suspension of N-(3-methyl-5-isoxazolyl)-4-(4-methylphenyl)benzenesulfonamide (0.327 g, 1 mmol, Example 14nb) in chloroform (10 ml) and stirred at room temperature for 2 h. The reaction mixture was diluted with dichloromethane (50 ml) and washed with water (2×50 ml). The organic layer was dried over MgSO4 and concentrated. The crude product was purified by column chromatography using ethyl acetate as eluent to give N-(4-chloro-3-methyl-5-isoxazolyl)-4-(4-methylphenyl)benzensulfonamide [210 mg, 58% yield, m.p. 260° C. (de coup)].

reactant | N-chlorosuccinimide | 2 mmol, 0.266 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-(3-methyl-5-isoxazolyl)-4-(4-methylphenyl)benzenesulfonamide | 1 mmol, 0.327 g | CC1=NOC(=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C17H16N2O3S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-4-(4-methylphenyl)benzensulfonamide | 210 mg, 58% yield | ClC=1C(=NOC1NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C)C | C17H15ClN2O3S
